US04777299
1,3-Dimethoxy-2-(hept-1-yl)benzene
1,3-dimethoxybenzene (0.25 mol, 34 ml) was dissolved in THF (1 liter, dried) and the resultant solution was cooled in an ice bath. n-Butyl lithium (200 ml, 0.32 moles) was added over a period of one hour. The resultant solution was stirred for 2 hours in an ice bath. Solution was then cooled to -78° C. and n-heptyl iodide (226 ml, 0.22 moles) was quickly added. The solution was then allowed to warm to room temperature and stirred overnight then refluxed for 2 hours. The solution was cooled and a mixture of diethyl ether and water was added. The ether layer was collected, dried over magnesium sulfate, filtered and evaporated to dryness. The residue was chromatographed by HPLC (eluted with hexane) to yield 34.0 g of the title product.

reactant | 1,3-dimethoxybenzene | 0.25 mol, 34 ml | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-Butyl lithium | 0.32 moles, 200 ml | C(CCC)[Li]
reactant | n-heptyl iodide | 0.22 moles, 226 ml | C(CCCCCC)I | C7H15I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 1 liter | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1,3-Dimethoxy-2-(hept-1-yl)benzene | 34.0 g | COC1=C(C(=CC=C1)OC)CCCCCCC | C15H24O2
